US07163928B2
3-Aminopyrrolidine is reacted with 3-(3,4-dimethoxybenzaldehyde, which is commercially available from Aldrich (Milwaukee, Wis.) in an inert solvent, for example methanol, in the presence of a base, for example sodium carbonate, and stirred for about 4–24 hours, preferably about 12 hours, at about room temperature. When the reaction is substantially complete, 4-(2-aza-2-pyrrolidin-3-ylvinyl)-1,2-dimethoxybenzene is isolated and purified by conventional means, and used without further purification.

reactant | 3-Aminopyrrolidine | NC1CNCC1 | C4H10N2
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 4-(2-aza-2-pyrrolidin-3-ylvinyl)-1,2-dimethoxybenzene | N1NC(CC1)C=CC1=CC(=C(C=C1)OC)OC | C13H18N2O2
